US07692011B2
(C) 5,7-Dichloro-8-hydroxy-3H-quinazolin-4-one (1067)
According to the procedure described in Step C, 2-amino-4,6-dichloro-3-hydroxybenzamide and formic acid in the presence of CDI gave, after washing the crude product with MeOH, 5,7-dichloro-8-hydroxy-3H-quinazolin-4-one as a white solid (36%).—1H NMR (DMSO-d6): δ 8.12 (s, 1H), 7.55 (s, 1H); mass spectrum: m/z 229, 231, 233 (M+−1, 100%, 66%, 11%).

reactant | 2-amino-4,6-dichloro-3-hydroxybenzamide | NC1=C(C(=O)N)C(=CC(=C1O)Cl)Cl | C7H6Cl2N2O2
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | formic acid | C(=O)O | CH2O2
product | 5,7-Dichloro-8-hydroxy-3H-quinazolin-4-one | ClC1=C2C(NC=NC2=C(C(=C1)Cl)O)=O | C8H4Cl2N2O2
